US05648385
4-[(1,1-Dimethyl-3-phenyl-1H-inden-5-yloxymethyl)-benzoic acid (I32 a)
Methyl 4-(1,1-dimethyl-3-phenyl-1H-inden-5-yloxymethyl)benzoate (300 mg, 0.78 mmol) and 3.9 mL of 2N NaOH in 5 mL of tetrahydrofuran and 5 mL of methanol were stirred at room temperature for 16 hours. The mixture was concentrated and acidified with 1N HCl (10 mL), extracted with ethyl acetate (20 mL×3). The combined extracts were washed with water (10 mL), dried over magnesium sulfate, and evaporated. The residue was crystallized from ether-hexane to give 247 mg (85% yield) of the title compound as white crystals; 1H-NMR (DMSO-d6) δ 1.31 (s, 6H), 5.20 (s, 2H), 6.57 (s, 1H), 6.89 (dd, J=1.1, 8.2 Hz, 1H), 7.02 (d, J=1.1 Hz, 1H), 7.36-7.57 (m, 8H), 7.95 (d, J=8.3 Hz, 2H), 12.94 (bs, 1H); MS m/e 371 (MH+).

reactant | Methyl 4-(1,1-dimethyl-3-phenyl-1H-inden-5-yloxymethyl)benzoate | 0.78 mmol, 300 mg | CC(C)(C1=CC=C(C(=O)OC)C=C1)OC=1C=C2C(=CCC2=CC1)C1=CC=CC=C1 | C26H24O3
reactant | NaOH | 2N, 3.9 mL | [OH-].[Na+]
reactant | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
solvent | methanol | 5 mL | CO | CH4O
product | (1,1-Dimethyl-3-phenyl-1H-inden-5-yloxymethyl)-benzoic acid | 247 mg, 85% yield | CC(C)(OC=1C=C2C(=CCC2=CC1)C1=CC=CC=C1)C1=C(C(=O)O)C=CC=C1 | C25H22O3
